US08349851B2
A stirred mixture of methyl 2-amino-5-fluorobenzoate (1 g, 5.92 mmol) and ethyl carbonocyanidate (1.17 g, 11.8 mmol) in HOAc (8 mL) was treated with a 12 N aq solution of hydrochloric acid (0.8 mL). The resulting mixture was heated at 70° C. for 3 h. After cooling to rt, the solvent was removed under reduced pressure. The residue was suspended in water and treated with a saturated aq solution of NaHCO3 until pH=7. The solid was filtered, washed with water/diethyl ether and dried under reduced pressure to afford ethyl 6-fluoro-4-oxo-3,4-dihydroquinazoline-2-carboxylate (1.2 g, 86%). 1H NMR (300 MHz, DMSO-d6) δ 12.79 (s, 1H), 7.76-7.95 (m, 3H), 4.39 (q, J=7.0 Hz, 2H), 1.36 (t, J=7.0 Hz, 3H); LC-MS (ESI) m/z 237 (M+H)+.

reactant | methyl 2-amino-5-fluorobenzoate | 5.92 mmol, 1 g | NC1=C(C(=O)OC)C=C(C=C1)F | C8H8FNO2
reactant | ethyl carbonocyanidate | 11.8 mmol, 1.17 g | C(OCC)(=O)C#N | C4H5NO2
reactant | hydrochloric acid | 0.8 mL | Cl | ClH
solvent | HOAc | 8 mL | CC(=O)O | C2H4O2
product | ethyl 6-fluoro-4-oxo-3,4-dihydroquinazoline-2-carboxylate | 1.2 g, 86% | FC=1C=C2C(NC(=NC2=CC1)C(=O)OCC)=O | C11H9FN2O3
